US06893650B1
a) N-(4-Bromo-2,5-xylyl)pivalamide
To a solution of 4-bromo-2,5-xylidine (8 g) in pyridine (60 ml) was added pivaloyl chloride (4.7 ml) at room temperature. After 30 minutes, the mixture was poured into dilute hydrochloric acid/ice solution. The precipitate was filtered and washed with water to give the title product.

reactant | 4-bromo-2,5-xylidine | 8 g | BrC=1C=C(C(N)=CC1C)C | C8H10BrN
reactant | pivaloyl chloride | 4.7 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
product | N-(4-Bromo-2,5-xylyl)pivalamide | BrC1=CC(=C(C=C1C)NC(C(C)(C)C)=O)C | C13H18BrNO
